US06403830B2
A sample of 2-[(2R)-Oxiranylmethyl]-1H-isoindole-1,3-dione (G. Alexander et al. Tetrahedron Asymmetry, 7, 1641-8, 1996) is treated with potassium hydrogen difluoride to give 2-[(2R)-3-fluoro-2-hydroxypropyl]-1H-isoindole-1,3-dione in the presence of catalyst nBu4NH2F3. The procedures and methods used in this synthesis are identical to those of Example 3, except that in step Example-3B 2-[(2R)-3-fluoro-2-hydroxypropyl]-1H-isoindole-1,3-dione is used instead of(S)-1-[(benzyloxycarbonyl)amino]-2-propanol to produce the title product.

reactant | 2-[(2R)-Oxiranylmethyl]-1H-isoindole-1,3-dione | O1[C@@H](C1)CN1C(C2=CC=CC=C2C1=O)=O | C11H9NO3
reactant | potassium hydrogen difluoride | F.[F-].[K+]
product | 2-[(2R)-3-fluoro-2-hydroxypropyl]-1H-isoindole-1,3-dione | FC[C@@H](CN1C(C2=CC=CC=C2C1=O)=O)O | C11H10FNO3
